US07470680B2
N-(2-formylthiophen-3-yl)pivalamide.
To an oven dried flask was charged with N-(thiophen-3-yl)pivalamide (2.0 g, 10.91 mmol) and THF (50 mL) at rt, then the light tan solution was cooled down to −78° C., followed by dropwise addition of n-BuLi (2.4M in hexanes, 9.60 mL, 24.01 mmol) over 5 min under N2. The resulting off-white suspension was stirred for 1 hr, followed by addition of DMF (3.21 mL, 41.5 mmol) through a syringe over 2 min. In 20 min, the suspension became tan solution and the reaction mixture was warmed to rt and continued stirring for 30 min. The conversion was completed as determined by TLC, thus the reaction was quenched with sat. NH4Cl, partitioned between Et2O/H2O (150 mL/50 mL), after separation, the organic solution was washed with brine, dried (Na2SO4), concentrated and purified on Biotage Fresh Collector eluting with 10˜40% EtOAc/Hexanes to afford the expected product, N-(2-formylthiophen-3-yl)pivalamide (1.85 g, 80%) as a tan oil. 1H-NMR (500 MHz, CHLOROFORM-D) δ ppm 1.32 (s, 9 H) 7.68 (d, J=5.19 Hz, 1 H) 8.19 (d, J=5.19 Hz, 1 H) 9.71 (s, 1 H) 10.97 (s, 1 H); Mass spec. 212.09 (MH+) calc. for C10H13NO2S 211.07.

reactant | N-(thiophen-3-yl)pivalamide | 10.91 mmol, 2.0 g | S1C=C(C=C1)NC(C(C)(C)C)=O | C9H13NOS
reactant | n-BuLi | 24.01 mmol, 2.4M, 9.60 mL | [Li]CCCC
reactant | DMF | 41.5 mmol, 3.21 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(2-formylthiophen-3-yl)pivalamide | 1.85 g, 80% | C(=O)C=1SC=CC1NC(C(C)(C)C)=O | C10H13NO2S
